US08486962B2
Thionyl chloride (10 ml) was added to 4-aminobenzoic acid (1.0 g, 7.29 mmol) and the solution was heated to reflux for 16 hr. Thionyl chloride was removed under vacuum to yield 4-amino-benzoyl chloride (1.13 g, 100%).

reactant | 4-aminobenzoic acid | 7.29 mmol, 1.0 g | NC1=CC=C(C(=O)O)C=C1 | C7H7NO2
reactant | Thionyl chloride | 10 ml | S(=O)(Cl)Cl | Cl2OS
product | 4-amino-benzoyl chloride | 1.13 g, 100% | NC1=CC=C(C(=O)Cl)C=C1 | C7H6ClNO
